US06608069B1
(a) 4-[1,3-Bis(cyclohexylmethyl)-1,2,3,6-tetrahydro-2,6-dioxo-9H-purin-8-yl]benzaldehyde
1,3-Bis(cyclohexylmethyl)-5,6-diaminouracil (143.5 mmol) was freshly prepared as described in Example 1d and dissolved in absolute ethanol (1 L). Terepthaldehyde monodiethylacetal (Aldrich, 28.54 ml, 143.5 mmol) was added and the solution was stirred at room temperature for 3h. The reaction mixture was concentrated at reduced pressure. and residual ethanol was removed by evaporation from dimethoxyethane (400 ml). The resulting yellow solid was dissolved in dimethoxyethane (1 L) and iodine crystals (40.06 g, 157.85 mmol) were added. The reaction mixture was stirred at 50° C. for 4 h and at room temperature overnight. Saturated Na2S2O3 (300 ml) was added and the dimethoxyethane was removed at reduced pressure. The resulting solid was collected by filtration and combined with methanol (300 ml), H2O (100 ml) and conc. Hydrochloric acid (3 ml). After heating at reflux for ten minutes, the solids were collected by filtration and dried to provide the title compound as a tan solid (53.05 g, 82% yield). 1H-NMR (400 MHz, DMSO-d6) δ: 14.13 (s, 1H), 10.05 (s, 1H), 8.31 (d, J=8.2 Hz, 2H), 8.03 (d, J=8.2 Hz, 2H), 3.91 (br d, J=7 Hz, 2H), 3.77 (br d, J=7 Hz, 2H), 1.93 (m, 1H), 1.74 (m, 1H), 1.60 (m, 10H), 1.20-0.90 (m, 10H). MS (ES−): 447 (M−1).

reactant | 1,3-Bis(cyclohexylmethyl)-5,6-diaminouracil | 143.5 mmol | C1(CCCCC1)CN1C(=O)N(C(=O)C(=C1N)N)CC1CCCCC1 | C18H30N4O2
reactant | iodine crystals | 157.85 mmol, 40.06 g | II | I2
reactant | Na2S2O3 | 300 ml | [O-]S(=O)(=S)[O-].[Na+].[Na+]
reactant | ethanol | 1 L | C(C)O | C2H6O
product | 4-[1,3-Bis(cyclohexylmethyl)-1,2,3,6-tetrahydro-2,6-dioxo-9H-purin-8-yl]benzaldehyde | 53.05 g, 82% yield | C1(CCCCC1)CN1C(N(C=2NC(=NC2C1=O)C1=CC=C(C=O)C=C1)CC1CCCCC1)=O | C26H32N4O3
